US08877782B2
6-(5-Methyl-3-phenyl-isoxazol-4-ylmethoxy)-N-{1-[(2,2,2-trifluoro-ethylcarbamoyl)-methyl]-piperidin-3-yl}-nicotinamide
As described for example 42, (3-{[6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridine-3-carbonyl]-amino}-piperidin-1-yl)-acetic acid (70 mg, 0.16 mmol) was converted, using 2,2,2-trifluoroethylamine instead of methylamine, to the title compound (51 mg, 62%) which was obtained as an off white solid. MS: m/e=532.0 [M+H]+.

reactant | (3-{[6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridine-3-carbonyl]-amino}-piperidin-1-yl)-acetic acid | 0.16 mmol, 70 mg | CC1=C(C(=NO1)C1=CC=CC=C1)COC1=CC=C(C=N1)C(=O)NC1CN(CCC1)CC(=O)O | C24H26N4O5
reactant | 2,2,2-trifluoroethylamine | FC(CN)(F)F | C2H4F3N
product | 6-(5-Methyl-3-phenyl-isoxazol-4-ylmethoxy)-N-{1-[(2,2,2-trifluoro-ethylcarbamoyl)-methyl]-piperidin-3-yl}-nicotinamide | 51 mg, 62% | CC1=C(C(=NO1)C1=CC=CC=C1)COC1=NC=C(C(=O)NC2CN(CCC2)CC(NCC(F)(F)F)=O)C=C1 | C26H28F3N5O4
